US07576215B2
N-PHENYL-N′-{3-[3-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}UREA
The title compound was prepared from {3-[3-phenyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and phenyl isocyanate in substantially the same manner as described in Example 61 with one change: no triethylamine was used; off-white solid: mp 202-205° C.; MS (ES) m/z 481.8.

reactant | {3-[3-phenyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C22H15F3N2
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-PHENYL-N′-{3-[3-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}UREA | C1(=CC=CC=C1)NC(=O)NC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C1=CC=CC=C1 | C29H20F3N3O
